US09212135B2
A mixture of ethyl 2-(4′-cyanobiphenyl-2-ylthio)-2-methylpropanoate (93 mg, 0.286 mmol) and aqueous sodium hydroxide solution (1 M, 2 mL) in methanol (4 mL) was stirred at 60° C. for 12 hours. The reaction mixture was concentrated to remove methanol, acidified and filtered to obtain a white powder, which was purified by chromatography to yield 2-(4′-cyanobiphenyl-2-ylthio)-2-methylpropanoic acid (38.1 mg, 45%). By-product 2-(4′-carbamoylbiphenyl)-2-ylthio)-2-methylpropanoic acid (38.4 g) was also obtained. 1H NMR (400 MHz, DMSO-d6, 25° C.) 7.67-7.72 (m, 3H), 7.48-7.54 (m, 3H), 7.37-7.43 (m, 2H), 1.33 (s, 6H). MS (m/z) 296.16 (M-1).

reactant | ethyl 2-(4′-cyanobiphenyl-2-ylthio)-2-methylpropanoate | 0.286 mmol, 93 mg | C(#N)C1=CC=C(C=C1)C1=C(C=CC=C1)SC(C(=O)OCC)(C)C | C19H19NO2S
reactant | sodium hydroxide | 1 M, 2 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 2-(4′-cyanobiphenyl-2-ylthio)-2-methylpropanoic acid | 38.1 mg, 45% | C(#N)C1=CC=C(C=C1)C1=C(C=CC=C1)SC(C(=O)O)(C)C | C17H15NO2S
